US04045446
Preparation of 6-Chlorobenzothiazol-2yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (200 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 2-Amino-6-chlorobenzothiazole (0.1 mole) is added with stirring. After the addition is completed, the reaction mixture is heated at reflux for a period of about 1 hour. After this time the mixture is cooled, and the solid product formed is recovered by filtration. The solid is then dried to yield the desired product 6-chlorobenzothiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-Amino-6-chlorobenzothiazole | 0.1 mole | NC=1SC2=C(N1)C=CC(=C2)Cl | C7H5ClN2S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 6-chlorobenzothiazol-2-yl isocyanate | ClC1=CC2=C(N=C(S2)N=C=O)C=C1 | C8H3ClN2OS
